US07572809B2
Similar procedure as described in example 330 was used, starting from (1-Chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and isopropenylboronic acid pinacol ester to give (1-Isopropyl-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 327(MH+).

reactant | (1-Chloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)OC)OC)NC1=NNC(=C1)C | C15H15ClN4O2
reactant | isopropenylboronic acid pinacol ester | C(=C)(C)B1OC(C)(C)C(C)(C)O1 | C9H17BO2
product | (1-Isopropyl-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)C1=NC(=CC2=CC(=C(C=C12)OC)OC)NC1=NNC(=C1)C | C18H22N4O2
